US07374926B2
To (±)-3-hydroxy-4-trityloxybutane-nitrile (1.03 g, 3.00 mmol) under N2 was added acetic anhydride (1.53 g, 15.00 mmol) and pyridine (0.26 g, 3.30 mmol) and the resultant mixture was stirred overnight at room temperature. After completion of the reaction (TLC) the reaction mixture was diluted with ethyl acetate (25 mL) and treated with 1N HCl (20 mL). The organic layer was separated, washed with brine and dried over anhydrous Na2SO4. The solvent was evaporated and the residue was purified by column chromatography employing EtOAc-hexane (15:85) as eluent to afford the required 3-acetyloxy-4-trityloxybutanenitrile in nearly quantitative yield. IR (KBr) 3466, 3066, 3019, 2925, 2863, 2235, 1741, 1223, 1004 cm−1; 1HNMR (300 MHz, CDCl3) δ 2.09 (s, 3H), 2.76 (d, 2H, J=5.69, 5.79 Hz), 3.92-4.02 (m, 1H), 7.23-7.41 (m, 15H); Mass (EI) 259, 243, 165, 105, 77.

reactant | (±)-3-hydroxy-4-trityloxybutane-nitrile | 3.00 mmol, 1.03 g | OC(CC#N)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21NO2
reactant | acetic anhydride | 15.00 mmol, 1.53 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 3.30 mmol, 0.26 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-acetyloxy-4-trityloxybutanenitrile | quantitative yield | C(C)(=O)OC(CC#N)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23NO3
